US03932499
2-(2,4'-Difluoro-4-biphenylyl)propionic acid (830 mg.), ethanol (10 ml.) and concentrated sulphuric acid (0.5 ml.) were refluxed for 16 hours. The solution was diluted with ice-water (200 ml.) and extracted with ether. After the usual washing, evaporation of the ether and distillation of the residue gave ethyl 2-(2,4'-difluoro-4-biphenylyl)-propionate, b.p. 145°-146°C./0.8 mm.

reactant | 2-(2,4'-Difluoro-4-biphenylyl)propionic acid | 830 mg | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=C(C=C1)F | C15H12F2O2
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-(2,4'-difluoro-4-biphenylyl)-propionate | FC1=C(C=CC(=C1)C(C(=O)OCC)C)C1=CC=C(C=C1)F | C17H16F2O2
